US05412097
To a solution of 5-bromo-2-ethyl-7-methylimidazo[4,5-b]pyridine (10 g, 39 mmol) in DMF (70 mL) at room temperature was added NaH (1.3 g of an 80% dispersion, 43 mmol). After 20 min benzyl bromide (5.15 mL, 43 mmol) was added and the reaction was stirred for 16 h. The mixture was poured onto 500 g of ice and the solid residue was filtered, washed with water and air dried to afford 3-benzyl-5-bromo-2-ethyl-7-methylimidazo[4,5-b]pyridine.

reactant | 5-bromo-2-ethyl-7-methylimidazo[4,5-b]pyridine | 39 mmol, 10 g | BrC1=CC(=C2C(=N1)N=C(N2)CC)C | C9H10BrN3
reactant | NaH | [H-].[Na+]
reactant | benzyl bromide | 43 mmol, 5.15 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 3-benzyl-5-bromo-2-ethyl-7-methylimidazo[4,5-b]pyridine | C(C1=CC=CC=C1)N1C(=NC=2C1=NC(=CC2C)Br)CC | C16H16BrN3
